US07863302B2
6-bromo-benzo[b]thiophene-2-carboxylic acid ethyl ester
Sodium hydride (1.41 g, 35.32 mmol) is added to a round bottom flask and washed with hexanes (10 mL) twice. To the flask is added dimethyl sulfoxide (30 mL) and ethyl 2-mercaptoacetate (3.54 g, 29.43 mmol). The mixture is stirred for 10 minutes and 4-bromo-2-fluoro-benzaldehyde (4.78 g; 23.55 mmol) is added. The reaction mixture is stirred for 15 minutes and quenched with ice-water (100 g). The mixture is extracted with CH2Cl2 (50 mL×2). The combined organic layers are dried over Na2SO4, filtered, and concentrated under reduced pressure. The crude product is purified via flash chromatography eluting with 10% EtOAc/Hexanes. The appropriate fractions are combined and concentrated under reduced pressure to afford the title compound (5.75 g, 86%). 1H NMR (400 MHz, CDCl3): δ 8.00 (s, 1H), 7.99 (s, 1H), 7.75 (d, 1H), 7.48 (d, 1H), 4.38 (q, 2H), 1.39 (t, 3H).

reactant | Sodium hydride | 35.32 mmol, 1.41 g | [H-].[Na+]
reactant | ethyl 2-mercaptoacetate | 29.43 mmol, 3.54 g | SCC(=O)OCC | C4H8O2S
reactant | 4-bromo-2-fluoro-benzaldehyde | 23.55 mmol, 4.78 g | BrC1=CC(=C(C=O)C=C1)F | C7H4BrFO
solvent | dimethyl sulfoxide | 30 mL | CS(=O)C | C2H6OS
product | 6-bromo-benzo[b]thiophene-2-carboxylic acid ethyl ester | 5.75 g, 86% | C(C)OC(=O)C1=CC2=C(S1)C=C(C=C2)Br | C11H9BrO2S
